LM339 offset and input bias at datasheet conditions
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.ti.com/lit/ds/symlink/lm339.pdf
* Revision: SLCS006Z, October 1979, revised May 2025
* Archetype: archetype-comparator.md, variant OC
* Fit: exactly three native ngspice-46 fixed-point calibration iterations
* Node order: INP INN OUT VCC GND
.subckt OC_LM339 INP INN OUT VCC GND
+ PARAMS: AOL=2.0000000000e05 VOS=-2.0000000000e-03 IBIAS=2.5000000000e-08 IOS=5.0000000000e-09 TPD=1.2737968966e-06
+ VCLAMP=1 KSW=20 VHYST=0.0000000000e00 IQ=2.0000000000e-04 CD=10p
IBP GND INP DC {IBIAS+IOS/2}
IBN GND INN DC {IBIAS-IOS/2}
CDIF INP INN 1p
BC c GND V = VCLAMP*tanh((AOL/VCLAMP)*(v(INP,INN)+VOS+VHYST*v(cd)/VCLAMP))
RC c cd {TPD/0.693/CD}
CC cd GND {CD}
ROC OUT GND R={1/((1/3.7500000000e01)*0.5*(1-tanh(KSW*v(cd)/VCLAMP))+1/1e9)}
IQD VCC GND DC {IQ}
.ends OC_LM339
.temp 25
VCC vcc 0 5
VREF ref 0 1.4
VIL il 0 1.397
VIH ih 0 1.4069999999999998
XL il ref outl vcc 0 OC_LM339
XH ih ref outh vcc 0 OC_LM339
RPL vcc outl 5100
RPH vcc outh 5100
VP bp 0 1.4
VN bn 0 1.5
XB bp bn outb vcc 0 OC_LM339
.save v(outl) v(outh) i(VP) i(VN)
.op
.end
