OpenCircuit NE5532 minimum rated supply follower
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Node order: INP INN VCC VEE OUT
.subckt OC_TI_NE5532 INP INN VCC VEE OUT
.param AOL=1.0000000000e+05 GBW=1.3240033708e+07 SR=5.2959006518e+06 IBIAS=2.0000000000e-07 IOS=1.0000000000e-08 VOS=5.0000000000e-04
.param ROUT=5.0000000000e+01 ILIM=3.8000000000e-02 VDRP_H=2.0000000000e+00 VDRP_L=2.0000000000e+00 CC=30p FP2=3.9720101124e+07
.param CMRR=1.0000000000e+05 PSRR=1.0000000000e+05 VSUP_NOM=3.0000000000e+01 IQ=3.0000000000e-03 EN=5.0000000000e-09
IBP 0 INP DC {IBIAS+IOS/2}
IBN 0 INN DC {IBIAS-IOS/2}
CDIF INP INN 1p
BERR e 0 V = v(INP,INN) + VOS + v(nz) + 0.5*(v(INP)+v(INN))/CMRR + (v(VCC,VEE)-VSUP_NOM)/PSRR
RE e 0 1meg
RNZ nz 0 {EN*EN/(4*1.380649e-23*300.15)}
BGM 0 p I = {SR*CC}*tanh({6.283185307*GBW/SR}*v(e))
CP p 0 {CC}
RP p 0 {AOL/(6.283185307*GBW*CC)}
RP2 p p2 {1/(6.283185307*FP2*1p)}
CP2 p2 0 1p
BCLMP q 0 V = min(max(v(p2), v(VEE)+min(VDRP_L,0.49*v(VCC,VEE))), v(VCC)-min(VDRP_H,0.49*v(VCC,VEE)))
RQ q 0 1meg
BOUT 0 OUT I = ILIM*tanh((v(q)-v(OUT))/(ROUT*ILIM))
IQVCC VCC VEE DC {IQ}
.ends OC_TI_NE5532

.temp 25
VCC vcc 0 5.0
VEE vee 0 -5.0
VN n 0 -0.25
XN n on vcc vee on OC_TI_NE5532
RLN on 0 10k
VZ z 0 0
XZ z oz vcc vee oz OC_TI_NE5532
RLZ oz 0 10k
VP p 0 0.25
XP p op vcc vee op OC_TI_NE5532
RLP op 0 10k
.op
.end
